US08076516B2
Preparation of 4-(3-(2-aminoethoxy)phenethyl)tetrahydro-2H-thiopyran-4-ol
Hydrogenation of 4-((3-(2-aminoethoxy)phenyl)ethynyl)tetrahydro-2H-thiopyran-4-ol was conducted following the method used to prepare Example 2 except that EtOAc-MeOH (90%) was used as the reaction solvent. Example 11 was isolated as a colorless oil. Yield (0.179 g, 98%): 1H NMR (400 MHz, DMSO-d6) δ 7.13 (t, J=8 Hz, 1H), 6.34-6.88 (m, 3H), 4.26 (br s, 1H), 3.86 (t, J=6.0 Hz, 2H), 2.57-2.88 (m, 4H), 2.53-2.56 (m, 2H), 2.32-2.37 (m, 2H), 1.73-1.78 (m, 2H), 1.42-1.62 (m, 6H).

reactant | 4-((3-(2-aminoethoxy)phenyl)ethynyl)tetrahydro-2H-thiopyran-4-ol | NCCOC=1C=C(C=CC1)C#CC1(CCSCC1)O | C15H19NO2S
solvent | EtOAc MeOH | CCOC(=O)C.CO
product | 4-(3-(2-aminoethoxy)phenethyl)tetrahydro-2H-thiopyran-4-ol | NCCOC=1C=C(CCC2(CCSCC2)O)C=CC1 | C15H23NO2S
